US08609660B2
Palladium(II) acetate (0.022 g, 0.097 mmol) was added to a stirred suspension of rac-4-(3-chloro-phenyl)-4-methyl-4,5-dihydro-pyrazolo[1,5-a]pyrazin-6-one (0.17 g, 0.65 mmol), 5-methoxypyridine-3-boronic acid (0.15 g, 0.97 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.080 g, 0.195 mmol) and potassium phosphate (0.28 g, 1.30 mmol) in toluene (2 mL) and EtOH (0.2 mL) at room temperature and under nitrogen. The mixture was stirred at 150° C. for 30 minutes under microwave irradiation. Then the mixture was filtered through diatomaceous earth and washed with AcOEt. The filtrate was evaporated in vacuo. The residue was purified by flash column chromatography (silica gel; AcOEt). The desired fractions were collected and concentrated in vacuo to yield rac-4-[3-(5-methoxy-pyridin-3-yl)-phenyl]-4-methyl-4,5-dihydro-pyrazolo[1,5-a]pyrazin-6-one (0.11 g, 51% yield) as a white solid.

reactant | rac-4-(3-chloro-phenyl)-4-methyl-4,5-dihydro-pyrazolo[1,5-a]pyrazin-6-one | 0.65 mmol, 0.17 g | ClC=1C=C(C=CC1)C1(C=2N(CC(N1)=O)N=CC2)C | C13H12ClN3O
reactant | 5-methoxypyridine-3-boronic acid | 0.97 mmol, 0.15 g | COC=1C=C(C=NC1)B(O)O | C6H8BNO3
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.195 mmol, 0.080 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate | 1.30 mmol, 0.28 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 0.2 mL | CCO | C2H6O
catalyst | Palladium(II) acetate | 0.097 mmol, 0.022 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | rac-4-[3-(5-methoxy-pyridin-3-yl)-phenyl]-4-methyl-4,5-dihydro-pyrazolo[1,5-a]pyrazin-6-one | 0.11 g, 51% yield | COC=1C=C(C=NC1)C=1C=C(C=CC1)C1(C=2N(CC(N1)=O)N=CC2)C | C19H18N4O2
